US07534894B2
Oxalyl chloride (7.1 mL, 81.4 mmol) was added under nitrogen dropwise over 10 minutes to a suspension of 1-benzyl-1H-indole-3-carboxylic acid (4.10 g, 16.3 mmol) in 200 mL of methylene chloride at room temperature. When the oxalyl chloride was added there was an immediate evolution of gas and within 30 minutes all of the solid had dissolved. After the addition of the oxalyl chloride the reaction was stirred at room temperature for 2 h. The solvent and excess oxalyl chloride were removed under reduced pressure. The residue was taken up in benzene and then concentrated to dryness under reduced pressure to give 1-benzyl-1H-indole-3-carbonyl chloride, which was used in the following reaction without purification.

reactant | Oxalyl chloride | 81.4 mmol, 7.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-benzyl-1H-indole-3-carboxylic acid | 16.3 mmol, 4.10 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)O | C16H13NO2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-1H-indole-3-carbonyl chloride | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)Cl | C16H12ClNO
